* C:\users\juani\Escritorio\TC2\tp_semanal_3\LT\Draft1.asc
R1 N008 N007 1
R2 N005 N004 1
V1 N004 0 AC 1
XU1 N005 N007 N007 opamp Aol=100K GBW=10Meg
C2 N005 0 0.798
R3 N001 N009 1
R4 N010 N002 1
R5 0 N010 0.798
C1 N009 N003 1
C4 N002 N001 1
XU2 N001 N003 N002 opamp Aol=100K GBW=10Meg
XU3 N001 N010 N009 opamp Aol=100K GBW=10Meg
L1 N006 N008 0.798
C3 N006 0 0.798
.ac dec 100 0.01 10
.lib opamp.sub
.backanno
.end
