* C:\users\juani\Escritorio\TC2\tp_semanal_3\LT\Draft1.asc
V1 N004 0 AC 1
C3 N006 N005 1
R1 N003 N006 0.799
C1 N007 N003 1
C2 N002 N001 1
R2 N001 N007 1
R3 N008 N002 1
R4 0 N008 0.799
XU1 N001 N008 N007 opamp Aol=100K GBW=10Meg
XU2 N001 N003 N002 opamp Aol=100K GBW=10Meg
R5 N005 N004 1
C4 N005 0 0.799
.ac dec 100 0.01 100
.lib opamp.sub
.backanno
.end
